US03976824
A one liter four necked flask equipped with a reflux condenser, a stirrer, a thermometer and a supply pipe for nitrogen gas was charged with 63.9 g. of acrylamide, 18.6 g. of diethylaminoethyl methacrylate, 3.7 g. of allyl alcohol, 10.4 g. of 35 % hydrochloric acid and 646.4 g. of deionized water. The temperature was elevated to 60°C. while supplying nitrogen gas, and then 0.82 g. of potassium persulfate dissolved in 81.2 g. of deionized water was added to the flask. The temperature was further elevated to 80°C., and at this temperature the polymerization was carried out for 3 hours. After the conclusion of the polymerization, the reaction mixture was cooled to give an aqueous solution of acrylamide-diethylaminoethyl methacrylate copolymer. The concentration, pH value and viscosity at 25°C. of the solution were 10.1 %, 6.0 and 3,700 cP, respectively.

reactant | acrylamide | C(C=C)(=O)N | C3H5NO
reactant | diethylaminoethyl methacrylate | C(C(=C)C)(=O)OCCN(CC)CC | C10H19NO2
reactant | allyl alcohol | C(C=C)O | C3H6O
reactant | hydrochloric acid | Cl | ClH
reactant | potassium persulfate | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[K+].[K+]
solvent | water | O | H2O
product | acrylamide diethylaminoethyl methacrylate | C(C=C)(=O)N.C(C(=C)C)(=O)OCCN(CC)CC | InChI=1S/C10H19NO2.C3H5NO/c1-5-11(6-2)7-8-13-10(12)9(3)4;1-2-3(4)5/h3,5-8H2,1-2,4H3;2H,1H2,(H2,4,5)
